US04139617
A tetrahydrofuran solution of 19-tetrahydropyranyloxy-1,5-androstadiene-3,17-dione is added under nitrogen to a solution of lithium tri-t-butoxyaluminum hydride in tetrahydrofuran. After stirring overnight at room temperature, an aqueous solution of potassium tartrate is added with stirring to form a readily filterable white solid. The reaction mixture is filtered, the filtrate dried over magnesium sulfate and the solvent removed by evaporation. The residue which remains is crystallized from an acetone solution to yield 19-tetrahydropyranyloxy-1,5-androstadiene-3β,17β-diol.

reactant | 19-tetrahydropyranyloxy-1,5-androstadiene-3,17-dione | O1C(CCCC1)OC[C@]12C=CC(CC1=CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C24H32O4
reactant | lithium tri-t-butoxyaluminum hydride | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 19-tetrahydropyranyloxy-1,5-androstadiene-3β,17β-diol | O1C(CCCC1)OC[C@]12C=C[C@@H](CC1=CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)O)O | C24H36O4
